US04762850
A solution of sodium hydroxide (2.70 g, 0.674 mole) in water (110 ml) was added to 1-(3,5-difluorobenzyl)-2-mercaptoimidazole-5-carboxylic acid methyl ester prepared as above (6.39 g, 0.0225 mole) and the resulting solution was stirred for 2 hours. The solution was cooled in ice, acidified to pH 2 with 3N hydrochloric acid, and the product was filtered and dried. The product was recrystallized from ethanol-water and dried to give 1-(3,5-difluorobenzyl)-2-mercaptoimidazole-5-carboxylic acid, m.p.: 240°-241° C. (5.66 g, 93%).

reactant | sodium hydroxide | 0.674 mole, 2.70 g | [OH-].[Na+]
reactant | 1-(3,5-difluorobenzyl)-2-mercaptoimidazole-5-carboxylic acid methyl ester | COC(=O)C1=CN=C(N1CC1=CC(=CC(=C1)F)F)S | C12H10F2N2O2S
reactant | hydrochloric acid | 3N | Cl | ClH
solvent | water | 110 ml | O | H2O
product | 1-(3,5-difluorobenzyl)-2-mercaptoimidazole-5-carboxylic acid | FC=1C=C(CN2C(=NC=C2C(=O)O)S)C=C(C1)F | C11H8F2N2O2S
